US07790737B2
4-Trifluoromethylaniline (3.00 g, 18.6 mmol) was dissolved in pyridine (1.62 g, 20.5 mmol), the solution was added with acetic anhydride (2.38 g, 23.3 mmol) with stirring on an ice bath, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and then azeotroped with toluene, and the resulting residue was suspended in hexane, and taken by filtration. The residue was washed with hexane, and then dried under reduced pressure to obtain 4-trifluoromethylacetanilide (3.76 g, 99%) as colorless solid.

reactant | 4-Trifluoromethylaniline | 18.6 mmol, 3.00 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | pyridine | 20.5 mmol, 1.62 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 23.3 mmol, 2.38 g | C(C)(=O)OC(C)=O | C4H6O3
product | 4-trifluoromethylacetanilide | 3.76 g, 99% | CC(=O)NC1=CC=C(C=C1)C(F)(F)F | C9H8F3NO
